US06498165B1
Step C: 2-[(S)-1-Phenylethylamino]-4-[5-azabenzimidazol-1-yl]pyrimidine
To a flask containing 2-methanesulfonyl-4-[5-azabenzimidazol-1-yl]pyrimidine (33.8 mg) was added toluene (0.25 mL) and (S)-1-phenylethylamine (0.25 mL). The mixture was warmed to 100° C. The 2-methanesulfonyl-4-[5-azabenzimidazol-1-yl]pyrimidine did not dissolve so DMF (0.25 mL) was added and the mixture was maintained at 100° C. overnight. The reaction mixture was cooled and the solvents were removed under reduced pressure. The product was purified by preparative thin layer chromatography (eluted with 7% MeOH in CH2Cl2) to give 28 mg of the title compound. 1H NMR (500 MHz, CD2Cl2): δ 1.63 (3H, d, J=7 Hz), 5.18, (1H, br s), 5.96 (1H, br s), 6.78 (1H, d, J=5.5 Hz), 7.28 (1H, t, J=7 Hz), 7.38 (2H, t, J=7 Hz), 7.46 (2H, m), 7.62 (1H, br), 8.43 (1H, d, J=5 Hz), 8.4-8.6 (2H, m), 9.07 (1H, s).

reactant | 2-methanesulfonyl-4-[5-azabenzimidazol-1-yl]pyrimidine | 33.8 mg | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CN=C2 | C11H9N5O2S
reactant | toluene | 0.25 mL | C1(=CC=CC=C1)C | C7H8
reactant | (S)-1-phenylethylamine | 0.25 mL | C1(=CC=CC=C1)[C@H](C)N | C8H11N
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
product | 2-[(S)-1-Phenylethylamino]-4-[5-azabenzimidazol-1-yl]pyrimidine | 28 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CN=C2 | C18H16N6
